US07674813B2
C. {1-[1-(Benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}amine
5-(1-Azido-2-ethylbutyl)-1-(benzyloxy)-1H-pyrazole (0.269 g, 0.90 mmol) was dissolved in THF (20 mL). Distilled water (0.40 mL, 22.5 mmol) was added, followed by triphenyl phosphine (0.590 g, 2.25 mmol). The mixture was refluxed for 2 h, cooled to ambient temperature and concentrated in vacuo. This produced a crude oil that was purified on a Biotage column (hexane/EtOAc, 1:1) to afford the product as a colorless oil (0.188 g, 76%). Mass Spectrum (+ESI): 274.2 (M+H)+.

reactant | 5-(1-Azido-2-ethylbutyl)-1-(benzyloxy)-1H-pyrazole | 0.90 mmol, 0.269 g | N(=[N+]=[N-])C(C(CC)CC)C1=CC=NN1OCC1=CC=CC=C1 | C16H21N5O
reactant | water | 22.5 mmol, 0.40 mL | O | H2O
reactant | triphenyl phosphine | 2.25 mmol, 0.590 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | {1-[1-(Benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}amine | 0.188 g, 76% | C(C1=CC=CC=C1)ON1N=CC=C1C(C(CC)CC)N | C16H23N3O
